US07476764B2
Step 4: Preparation of tert-butyl 3-methoxybenzyl((2R,3S)-3-(3-acetyl-5-(methylsulfonyl)benzamido)-4-(3,5-difluorophenyl)-2-hydroxybutyl)carbamate.
A mixture of methyl 3-acetyl-5-(methylsulfonyl)benzoic acid (52 mg, 0.215 mmol), HATU (98 mg, 0.258 mmol) and Hunig's base (111.1 mg, 0.15 mL, 0.86 mmol) in DMF (1.0 mL) was stirred for 10 min and then tert-butyl 3-methoxybenzyl((2R,3S)-3-amino-4-(3,5-difluorophenyl)-2-hydroxybutyl)-carbamate (94 mg, 0.215 mmol) was added. The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed with H2O 3 times and concentrated under vacuum. The crude mixture was purified by reverse phase prep HPLC to give the title compound (70 mg): 1H NMR (CD3OD, 500 MHz) δ ppm 1.48 (9H, s), 2.70 (3H, s), 2.87-2.90 (1H, m), 3.11-3.15 (2H, m), 3.20 (3H, s), 3.37 (1H, m), 3.76 (3H, s), 3.79-3.80 (1H, m), 3.99 (1H, m), 4.33-4.39 (1H, m), 4.43-4.47 (1H, m), 6.73 (1H, m), 6.80-6.83 (3H, m), 6.91 (2H, m), 7.21-7.25 (1H, m), 8.45 (1H, m), 8.54 (1H, m), 8.61 (1H, m). HPLC retention time: 2.022 min (method B). MS (ESI) (M+H)+ 661.14.

reactant | methyl 3-acetyl-5-(methylsulfonyl)benzoic acid | 0.215 mmol, 52 mg | CC1=C(C(=O)O)C=C(C=C1C(C)=O)S(=O)(=O)C | C11H12O5S
reactant | HATU | 0.258 mmol, 98 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig's base | 0.86 mmol, 0.15 mL, 111.1 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 3-methoxybenzyl((2R,3S)-3-amino-4-(3,5-difluorophenyl)-2-hydroxybutyl)-carbamate | 0.215 mmol, 94 mg | COC=1C=C(CN(C(OC(C)(C)C)=O)C[C@H]([C@H](CC2=CC(=CC(=C2)F)F)N)O)C=CC1 | C23H30F2N2O4
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-methoxybenzyl((2R,3S)-3-(3-acetyl-5-(methylsulfonyl)benzamido)-4-(3,5-difluorophenyl)-2-hydroxybutyl)carbamate | 70 mg | COC=1C=C(CN(C(OC(C)(C)C)=O)C[C@H]([C@H](CC2=CC(=CC(=C2)F)F)NC(C2=CC(=CC(=C2)S(=O)(=O)C)C(C)=O)=O)O)C=CC1 | C33H38F2N2O8S
